US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 30 mg, 0.070 mmol), (S)-1-aminopropan-2-ol (7.84 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were added to DMF (1 mL). The reaction mixture was stirred for 1 h and it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=11.9 min) to provide (R/S)-2-hydroxy-N—((S)-2-hydroxypropyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (18 mg, 0.033 mmol, 47.1% yield) as a mixture of diastereomers. LCMS=489.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.09-8.20 (2 H, m), 7.55-7.86 (7 H, m), 5.15 (1 H, s), 3.80-3.94(1 H, m, J=9.11, 6.67, 6.67, 4.62 Hz), 3.09-3.37 (2 H, m), 1.14 (3 H, dd, J=6.27, 1.21 Hz); HPLC peak RT=8.4 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | (S)-1-aminopropan-2-ol | 0.104 mmol, 7.84 mg | NC[C@H](C)O | C3H9NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N—((S)-2-hydroxypropyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.033 mmol, 18 mg, 47.1% yield | OC(C(=O)NC[C@H](C)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C23H19F3N4O5
